US06352993B1
5,6-dimethyl-2-isobutylamino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After isobutylamine(0.27 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 180 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | isobutylamine | 2.7 mmol, 0.27 ml | C(C(C)C)N | C4H11N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-isobutylamino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 180 mg, Yield: 28.8% | Cl.CC=1C(=NC(=NC1C)NCC(C)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C19H26N4.ClH/c1-13(2)11-20-19-21-15(4)14(3)18(22-19)23-10-9-16-7-5-6-8-17(16)12-23;/h5-8,13H,9-12H2,1-4H3,(H,20,21,22);1H
